* C:\Users\x\repo\development\loeti\hardware\switchmode.asc
Q1 N001 N002 N003 0 BC817-40
Q2 0 N002 N003 0 BC807-40
R1 N004 N003 20
M1 N006 N004 N001 N001 Si4425DY
R2 N006 0 3
C1 N001 0 470µ
V1 N001 0 20 Rser=0.5
V2 N005 0 PULSE(0 3.3 0 0 0 20u 50u)
Q3 N002 P001 0 0 BC817-40
R3 N001 N002 1k
R5 P001 N005 1k
.model NPN NPN
.model PNP PNP
.lib C:\Users\x\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\x\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10m
.backanno
.end
