* C:\Users\x\repo\development\loeti\hardware\switchmode.asc
Q1 N001 N002 N004 0 BC817-40
Q2 0 N002 N004 0 BC807-40
R1 N005 N004 20
M1 N008 N005 N003 N003 Si4425DY
R2 N008 0 2.9
C1 N001 0 470µ
V1 N001 0 20 Rser=0
V2 N007 0 PULSE(0 3.3 0 0 0 25u 50u)
Q3 N002 P001 0 0 BC817-40
R3 N001 N002 1k
R5 P001 N007 1k
R4 N001 N003 20m
R6 N007 N006 1k
C2 N006 0 100n
.model NPN NPN
.model PNP PNP
.lib C:\Users\x\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\x\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10m
.backanno
.end
